resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.012443
R2 0 n2 1.005888
R3 0 n4 0.996974
R4 n1 n3 0.98306
R5 n1 n5 0.992359
R6 n2 n3 0.982552
R7 n2 n6 1.006632
R8 n3 n7 1.013693
R9 n4 n5 1.01249
R10 n4 n6 23.403952
R11 n5 n7 0.982665
R12 n6 n7 0.980763
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
